US05021481
1-Cyclohexyloxy-4-dodecylamino-2,2,6,6-tetramethylpiperidine
The title compound is prepared in 82% yield as a colorless syrup from 1-cyclohexyloxy-2,2,6,6,-tetramethyl-piperidin-4-one and dodecylamine according to the procedure of Example 11B.

reactant | 1-cyclohexyloxy-2,2,6,6,-tetramethyl-piperidin-4-one | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | dodecylamine | C(CCCCCCCCCCC)N | C12H27N
product | 1-Cyclohexyloxy-4-dodecylamino-2,2,6,6-tetramethylpiperidine | 82% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCCCCCCCCCC)(C)C | C27H54N2O
